US07951815B2
TFA (7.8 g, 68.0 mmol) was added dropwise at 0° C. to a solution of tert-butyl 1-benzyl-3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate (1.5 g, 3.5 mmol) in CH2Cl2 (10 ml) and the mixture was stirred at this temperature for 15 min. After warming to RT, the reaction solution was stirred for a further 2.5 h. Subsequently, the reaction solution was adjusted to pH 7-8 using aqueous saturated NaHCO3 solution, the organic phase was separated off and the aqueous phase was extracted with CH2Cl2 (2×10 ml). The combined organic phase was dried over Na2SO4, filtered and the solvent was distilled off. The workup was carried out by means of column chromatography and afforded 1-benzyl-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one in a yield of 655 mg (58%).

reactant | TFA | 68.0 mmol, 7.8 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 1-benzyl-3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | 3.5 mmol, 1.5 g | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(=O)OC(C)(C)C)CCSC)=O | C22H33N3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C([C@@H](NC12CCNCC2)CCSC)=O | C17H25N3OS
